US06291514B1
5-Methyl-4-[2-phenylamino)(1,3-thiazol-4-yl)]thiophene-2-carboxamidine hydrochloride: Isopropyl 5-methyl-4-[2-(phenylamino)(1,3-thiazol-4-yl)]-thiophene-2-carboxylate hydrobromide (74 mg, 0.16 mmol) was treated with phenylthiourea (24.3 mg) as described in Example 154, step (b) to give 15 mg (28% yield) (of 5-methyl-4-[2-(phenylamino)(1,3-thiazol-4-yl)]thiophene-2-carboxamidine hydrochloride, which was further purified by recrystallization from methanol-water. 1H NMR (DMSO-d6, 300 MHz) δ 2.79 (s, 3H), 6.96 (t, 1H, J=7.2 Hz), 7.09 (s, 1H), 7.33 (t, 2H, J=7.5 Hz), 7.71 (d, 2H, J=7.7 Hz), 8.39 (s, 1H), 8.95 (bs, 2H), 9.33 (bs, 2H), 10.37 (s, 1H); Mass Spectrum (ESI) m/z calcd. for C15H14N4S3, 314.4 (M+H), found 315.2.

reactant | thiophene-2-carboxamidine hydrochloride | Cl.S1C(=CC=C1)C(=N)N
reactant | Isopropyl 5-methyl-4-[2-(phenylamino)(1,3-thiazol-4-yl)]-thiophene-2-carboxylate hydrobromide | 0.16 mmol, 74 mg | Br.CC1=C(C=C(S1)C(=O)OC(C)C)C=1N=C(SC1)NC1=CC=CC=C1
reactant | phenylthiourea | 24.3 mg | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
product | 5-methyl-4-[2-(phenylamino)(1,3-thiazol-4-yl)]thiophene-2-carboxamidine hydrochloride | 28% yield | Cl.CC1=C(C=C(S1)C(=N)N)C=1N=C(SC1)NC1=CC=CC=C1 | InChI=1S/C15H14N4S2.ClH/c1-9-11(7-13(21-9)14(16)17)12-8-20-15(19-12)18-10-5-3-2-4-6-10;/h2-8H,1H3,(H3,16,17)(H,18,19);1H
